US05059691
2-Methyl-7-(4-pyridinyl)pyrazolo(1,5-a) pyrimidine-3-carbonitrile
A mixture of 6.1 g of 5-amino-3-methyl-4-pyrazole carbonitrile and 8.81 g of 3-dimethylamino-1-(4-pyridinyl)-2-propen-1-one in 50 ml of glacial acetic acid is stirred and heated at reflux for 5 hours. The reaction mixture is cooled and the precipitate which forms is collected by filtration and washed with water and a little dichloromethane to give a solid. The solid is partitioned between saturated sodium bicarbonate and dichloromethane. The organic layer is dried over anhydrous sodium sulfate and passed through a short column of hydrous magensium silicate. The addition of hexane to the eluate crystallizes the product which is collected by filtration to give 6.17 g of the desired product, mp 220°-221° C.

reactant | 5-amino-3-methyl-4-pyrazole carbonitrile | 6.1 g | NC1=C(C(=NN1)C)C#N | C5H6N4
reactant | 3-dimethylamino-1-(4-pyridinyl)-2-propen-1-one | 8.81 g | CN(C=CC(=O)C1=CC=NC=C1)C | C10H12N2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-Methyl-7-(4-pyridinyl)pyrazolo(1,5-a) pyrimidine-3-carbonitrile | 6.17 g | CC1=NN2C(N=CC=C2C2=CC=NC=C2)=C1C#N | C13H9N5
